Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Versed / Percocet / Dilaudid
 
Attending: ___.
 
Chief Complaint:
Left face and left UE tingling, numbess
 
Major Surgical or Invasive Procedure:
PICC line placement. 
MRI under anesthesia 

 
History of Present Illness:
___ yo RH woman with ___ DVT/PE s/p Coumadin, SVT multiple 
ablations, recent DVT in leg after injury with Coumadin 
reinitiated now presents with left face and arm numbness. 
Patient reports that she was reading something at work when she 
noted cold like sensation in her left jaw and cheek and 
heaviness of left arm (appx 9:30 AM). She reports she was able 
to move left arm but need her opposite arm for assistence. She 
spoke to a colleague who told her she sounded "drunk". Patient 
reports symptoms of slurred improved after 20 min but it took 2 
hours for face and arm sensation to improve. She was brought to 
___ for further evalaution. On arrival to ED, patient has been 
complaining of chest pain. She was given carotid massage and 
Lopressor x 1 for HR elevation to ___ with
improvement in HR but not in CP. EKG no ischemic changes.

Per neurology: 
ROS: Reports HA yest after hitting head on lead pipe, now 
improved. Reports seeing black dots in central fields of vision 
while reading yesterday. No dysarthria, dysphagia, diplopia, 
other focal weakness. Reports some tingling in her left first 2 
fingers few months ago dx by MD as carpal tunnel syndrome, now
improved. No fever, URI symptoms. Other ROS negative. Has one 
h/o miscarriage.
 
Past Medical History:
1. h/o SVT/WPW s/p ___ 
___ , ___ and ___. Per records s/p cath ___ showing 
mild plaque in one artery.  
2. Glucose intolerance, no dx of DM
3. Broken wrist on the left, status post surgery.  
4. History of goiter. Had US done and technetium scan in ___
showing inactive thyroid nodules. TSH 1.5 ___. h/o saddle PE treated at ___ in ___. full
hypercoag panel negative  
6. PUD, GERD
7. Obesity--wt 226 for last several months
8. ___ says no longer depressed
9. Anxiety--Used hypnotism is the past which helped
10. Bulemia
11. DVT ___ in relation to left leg tendon injury

 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM
Son: AV nodal reentry 
Aunt: ___ CA at age ___

 
Physical Exam:
Exam per neurology: 
Tm:  Afebrile BP: 115  /77      HR: 90   RR: 20      O2Sat100% 
RA
Gen: uncomfortable, complaining of chest pain
HEENT:  NC/AT. Anicteric. MMM.
Neck:  Supple. No masses or LAD. No JVD. No thyromegaly. No 
carotid bruits.
Lungs: CTA bilaterally. No rales, rhonchi, wheezes.
Cardiac:  RRR. S1/S2. No murmurs, rubs, gallops
Abd:  Soft, Non tender, non distended. normal bowel sounds. No 
rebound or guarding. No HSM.
Extrem: Warm and ___. left leg in splint
 
Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Attention: Able to recite ___ forwards and backwards.
Registration intact.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition. 
Naming intact. No dysarthria or paraphasic errors. No apraxia, 
no neglect. Reading intact.
 
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2 mm 
bilaterally. Visual fields are full to confrontation. Optic disc 
margins sharp.
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength intact and symmetric. Reports decrease 
to LT and cold over left V2/V3 distributions. 
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
 
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout though ___ not 
tested on left as patient complains of pain when splint 
attempted to be removed. No pronator drift

Sensation: Reports appx 40% decrease in LT and cold modalities 
over left arm, nml sensation elsewhere. Has appx 15 sec vib 
testing on right, nml JP. No extinction. 
 
Reflexes: 2 plus throughout (left Achilles not tested)

Right toe down, left not tested. 
 
Coordination: Normal on ___, rapid alternating 
movements, heel to shin on right.
Gait: deferred with chest pain in ER. Normal on floor but 
limited by left leg cast.
 
Pertinent Results:
___ 05:18PM BLOOD ___
___ 02:28PM BLOOD ___ 
___ Plt ___
___ 02:28PM BLOOD ___ 
___
___ 02:28PM BLOOD ___ 
___
___ 09:23AM BLOOD ___ ___
___ 02:30PM BLOOD ___ ___
___ 09:23AM BLOOD ___
___ 09:23AM BLOOD ___ 
___
___ 02:28PM BLOOD ___ 
___
___ 10:00PM BLOOD CK(CPK)-116
___ 10:00PM BLOOD cTropnT-<0.01
___ 05:30PM BLOOD ___ cTropnT-<0.01
___ 02:28PM BLOOD cTropnT-<0.01
___ 02:30PM BLOOD ___
___ 09:23AM BLOOD ___
___ 09:23AM BLOOD ___ 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 11:13AM URINE ___

CT HEAD WITHOUT IV CONTRAST: There is no intracranial 
hemorrhage, no shift of normally midline structures, no loss of 
___ matter junction differentiation, no abnormality in 
size or contour of ventricles, sulci, or cisterns. The osseous 
structures are grossly unremarkable, and the visualized 
paranasal sinuses and mastoid air cells appear clear.

IMPRESSION: No acute intracranial process.

Cardiology ReportECGStudy Date of ___  3:00:04 ___
 
Sinus tachycardia. T wave abnormalities. Since the previous 
tracing
of ___ the rate has increased. T wave abnormalities are more 
prominent.
TRACING #1

CTA CHEST, ___

CLINICAL HISTORY: DVT, question PE.

TECHNIQUE: CT angiography the thorax was performed following 
departmental PE protocol using 100 cc of intravenous nonionic 
contrast. Coronal, sagittal and oblique reformatted images were 
provided. Comparison made to prior study of ___.

FINDINGS: The lungs are clear. Pulmonary arteries are well 
opacified. There is no pulmonary embolus or aortic abnormality. 
The heart size is within normal limits. No pleural or 
pericardial effusion. No pathologically enlarged lymph nodes are 
identified.

The liver is decreased in attenuation, in keeping with the fatty 
replacement. A ___ PICC line is seen with its tip 
terminating in the proximal SVC.

IMPRESSION: No PE. Clear lungs.

MR HEAD W & W/O CONTRAST; MRA BRAIN W/O CONTRAST

Reason: WEAKNESS

UNDERLYING MEDICAL CONDITION:
___ year old woman with left facial and arm numbness that's query 
stroke.
REASON FOR THIS EXAMINATION:
query stroke as per neurology.
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ female patient, with left facial and arm 
numbness, question stroke, to evaluate for questionable stroke, 
per neurology.

PRIOR STUDIES: CT of the head done on ___. Additional 
history, from prior studies indicate history of DVT, on Coumadin 
in the past.

TECHNIQUE: Multiplanar T1- and ___ imaging of the brain 
was performed without IV contrast. 3D TOF MR angiogram of the 
head was also performed.

FINDINGS:

MRI OF THE BRAIN WITH AND WITHOUT IV CONTRAST WAS PERFORMED 
ALONG WITH 3D TOF MR ANGIOGRAM OF THE HEAD: The signal intensity 
of the marrow in the cranial vault and the visualized cervical 
vertebrae is slightly hypointense which may be appropriate for 
the patient's age.

There are a few, scattered small, slight hyperintense foci, 2 mm 
in size, in the right parietal lobe white matter, subcortical in 
location, (series 8, image 14) a few are seen in the frontal 
subcortical white matter (series 8, image 15). Increased signal 
noted in somewhat the cerebral sulci, may be related to 
inadequate fluid signal intensity suppression or ___ 
effect on the FLAIR sequence. The major vascular flow voids are 
noted.

On the ___ images, no enhancement is noted in the 
small FLAIR hyperintense lesions. No abnormal foci of 
enhancement are noted in the brain parenchyma or in the 
meninges. There are no areas of restricted diffusion or 
intracranial hemorrhage.

3D TOF MR ANGIOGRAM OF THE HEAD:

The distal vertebral, basilar, posterior cerebral arteries are 
patent. The intracranial internal carotid arteries, including 
the petrous, cavernous and the supraclinoid segments are patent. 
The anterior and middle cerebral arteries are patent. The A1 
segment of the right anterior cerebral artery is smaller in 
caliber, representing hypoplasia.

There is no focal ___ stenosis, occlusion or aneurysm 
more than 3 mm, within the resolution of MR angiogram.

The ventricles and ___ CSF spaces are unremarkable in 
size. A small outpouching, noted from the frontal horn of the 
left lateral ventricle (series 4, image 124), can be related to 
mild asymmetry in the shape of the frontal horn or a prominent 
perivascular space or small area of gliosis (series 8, image 
14).

The left vertebral artery is dominant. The right vertebral 
artery is small in caliber, and is not visualized after the 
origin of the posterior inferior cerebellar artery, which can be 
a normal variant.

IMPRESSION:
1. A few, small ___ mm), FLAIR hyperintense lesions, in the 
bifrontal and parietal subcortical white matter, with no 
enhancement , which are nonspecific and can be related to 
postinflammatory, ___, demyelinating, vasculitis 
causes. To correlate clinically and with lab values.

2. No definite abnormal foci of enhancement are noted in the 
brain parenchyma or in the meninges.

3. No focal ___ stenosis, occlusion, or aneurysm more 
than 3 mm, within the resolution of MR angiogram of the head.

___ PICC W/O PORT  ___ 11:43 AM

Reason: Patient needs MRI under anesthesia.

UNDERLYING MEDICAL CONDITION:
___ year old woman with suspected CVA and needs IV access. Unable 
to get IV access at bedside.
REASON FOR THIS EXAMINATION:
Patient needs MRI under anesthesia.
PROCEDURE NAME: ___ line placement.

INDICATION: IV access

The procedure was explained to the patient. A timeout was 
performed.

RADIOLOGIST: Drs. ___ performed the procedure. Dr. 
___ Attending ___, was present and supervised 
the entire procedure.

TECHNIQUE: Using sterile technique and local anesthesia, the 
right brachial vein was punctured under direct ultrasound 
guidance using a micropuncture set. Hard copies of ultrasound 
images were obtained before and immediately after establishing 
intravenous access. A ___ sheath was then placed over a 
guidewire and a single lumen PICC line measuring 39.0 cm in 
length was then placed through the ___ sheath with its tip 
positioned in the SVC under fluoroscopic guidance. Position of 
the catheter was confirmed by a fluoroscopic spot film of the 
chest.

The ___ sheath and guidewire were then removed. The 
catheter was secured to the skin, flushed, and a sterile 
dressing applied.

The patient tolerated the procedure well. There were no 
immediate complications.

IMPRESSION: Uncomplicated ultrasound and fluoroscopically guided 
___ single lumen PICC line placement via the right brachial 
venous approach. Final internal length is 39.0 cm, with the tip 
positioned in SVC. The line is ready to use.

ECHO (with bubble study) Conclusions:
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. The estimated right atrial pressure is 
___. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%) There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.

Compared with the prior study (images reviewed) of ___, no 
significant change.

IMPRESSION: No intracardiac shunt identified.
 
Brief Hospital Course:
Due to the left face and UE tingling there was a concern for 
CVA. Neurology was consulted in ER and they recommended an MRI/A 
brain was done under GA (as patient is claustrophobic and would 
not aggree to get MRI without sedation). Results as above. These 
results were discussed with neurology attending Dr ___ 
who thought that these lesions in brain were ___ 
especially as ECHO with bubble study was negative for shunt. The 
MRI was negative for acute stroke and that the symptoms patient 
presented with did not correlate with MRI findings. 

Per radiology, MRI lesions could be postinfectious, 
postinflammatory, demyelinating or vasculitis cause. Defer 
further work up to PCP in clinic for ___, rheumatologic work up 
etc. Patient was informed of these abnormal findings. It was 
discussed that the findings were (per radiology and neurology) 
not likely to be acute stroke, but do require follow up for 
above reasons. The patient was concerned this was MS but it was 
discussed that - at this time it is unclear as to what the exact 
diagnosis is, but as recommended by Dr ___ was advised to 
follow up in neurology clinic. 

Dr ___ continuation of warfarin to target 
therapeutic INR between ___. Lovenox was continued while in 
hospital as well as on discharge. This will be continued till 
INR becomes therapeutic. Patient to follow up with her 
___ clinic at ___ who calls Dr ___ 
(___) with ___ for necessary changes. ASA was continued. The 
patient aslo is on anticoagulation for DVT, PE. 

Neurology team also recommended that the patient be worked up 
for hypercoagulable state as was planned by patient's PCP Dr 
___. Some studies like lupus anticoagulant and beta 2 
miccroglobulin antibody were sent while in hospital and are 
pending at discharge. Dr ___ of these and patient advised 
to follow up with Dr ___ results. 

Patient reported skipped beats in hospital but was maintained on 
telemetry and no signifcant arrythmia was noted. At times, 
telemetry was noted to be stating NSVT. Hwoever, on discussion 
with cardiologists (Dr ___ it was determined that the strip 
was an artifact. 

The patient also had a poor IV access and because peripheral IV 
could not be done by IV RN, ___ guided PICC was placed (power 
PICC). Upon discharge this was removed.

On day of discharge, patient mentioned to hospitalist that she 
may have noticed a lump in left breast. The patient was advised 
to discuss with PC to schedule a mammogram as soon as possible. 
Her last mammogram was ___ years back per pt. 

The patient has had chronic left hand tingling and working 
diagnosis by PCP is carpal tunnel.

Other issues remained stable. 

Above information was discussed on phone with PCP - Dr ___ on 
day of discharge. 
 
Medications on Admission:
Warfarin - pt states has needed over 20 mg/day
ASA 325 mg / day
Levothyroxine 50 micrograms/day
Metoprolol 75 mg TID
Vitamin daily
prilosec 20 mg /day
 
Discharge Medications:
1. Warfarin dose: 
Warfarin 17 mg PO DAILY. 
Contact the ___ clinic to get a follow up INR in the 
next ___ days.  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Metoprolol Tartrate 50 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day).  
5. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. Enoxaparin 100 mg/mL Syringe Sig: One (1) syringe  
Subcutaneous every twelve (12) hours.
Disp:*20 * Refills:*0*
7. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left upper extremity and left face paresthesias
Abnormal MRI brain 
History of deep vein thrombosis and pulmonary embolism
Chest pain, atypical
History of SVT, hypothyroidism

 
Discharge Condition:
stable 

 
Discharge Instructions:
- Keep your appointments. Take medications as instructed. 
- Discuss with your primary care doctor about scheduling a 
mammogram as we discussed for the breast lump you are feeling. 

- Neurologist has seen you for the symptoms you presented to the 
hospital with and they have also seen the MRI brain you had. 
They do not think this is a new stroke. However, as we 
discussed, you need further follow up with your primary care 
doctor as well as neurology for further testing for the abnormal 
MRI brain. 
- Also since you have had clots (in your lung and leg), as you 
are aware your primary care doctor has recommended testing with 
hematologist. Some blood tests were sent while you were here and 
have not returned at the time of your discharge. Discuss with Dr 
___ these results in ___ weeks. 
- Neurology clinic - ___. Please call to schedule an 
appointment to further work up of the abnormal MRI. 
- Your INR is low (1.7) today. You are being prescribed lovenox 
(enoxaparin). Continue to take lovenox and follow up with the 
___ clinic as you do for follow up of INR. They 
should call Dr ___ with INR levels so he can adjust dosing. 
 
Followup Instructions:
___